US05387594
Methyl 4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoate
5 ml of methanol, 460 μl of triethylamine and 50 ml of THF are introduced into a round-bottomed flask. A solution of 1.2 g (3.3 mmol) of 4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoyl chloride dissolved in 30 ml of THF is added dropwise and the mixture is stirred at room temperature for 4 h.

reactant | methanol | 5 ml | CO | CH4O
reactant | triethylamine | 460 μl | C(C)N(CC)CC | C6H15N
reactant | 4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoyl chloride | 3.3 mmol, 1.2 g | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C(=O)Cl)C=C2)C=CC1OC | C20H21ClO4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoate | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C(=O)OC)C=C2)C=CC1OC | C21H24O5
